US07776875B2
In a manner similar to the method described in Example 1a, 6-chlorooxindole (1.6 g, 9.2 mmol) (Crescent) was reacted with 4-(4-bromo-2-formyl-phenoxy)-benzoic acid methyl ester (2.8 g, 8.4 mmol) and pyrrolidine in methanol at 90° C. for 2 h to give E/Z-4-[4-bromo-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-benzoic acid methyl ester as a bright yellow solid (Yield 3 g, 81%).

reactant | 6-chlorooxindole | 9.2 mmol, 1.6 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | 4-(4-bromo-2-formyl-phenoxy)-benzoic acid methyl ester | 8.4 mmol, 2.8 g | COC(C1=CC=C(C=C1)OC1=C(C=C(C=C1)Br)C=O)=O | C15H11BrO4
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | methanol | CO | CH4O
product | Z-4-[4-bromo-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-benzoic acid methyl ester | Yield 3 g, 81% | COC(C1=CC=C(C=C1)OC1=C(C=C(C=C1)Br)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O)=O | C23H15BrClNO4
